US06028195
1-{N-[5-(1-Hydroxy-1-methylethyl)-2-methoxy-6-methylpyridin-3-yl]-N-methylaminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine
1-[N-Methyl-N-(5-acetyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(221 mg, 0.5 mmol) was dissolved in tetrahydrofuran(10 ml) and thereto methyl magnesium bromide(0.50 ml, 1.50 mmol). The resulting mixture was refluxed for 15 hrs, concentrated under the reduced pressure to remove used solvent, extracted with ethylacetate, filtered to dryness, and purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | 1-[N-Methyl-N-(5-acetyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.5 mmol, 221 mg | CN(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C=1C(=NC(=C(C1)C(C)=O)C)OC | C23H30N4O5
reactant | methyl magnesium bromide | 1.50 mmol, 0.50 ml | C[Mg]Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-{N-[5-(1-Hydroxy-1-methylethyl)-2-methoxy-6-methylpyridin-3-yl]-N-methylaminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine | yield: 92% | OC(C)(C)C=1C=C(C(=NC1C)OC)N(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C | C24H34N4O5
